data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1835,2033,[CH3:13][O:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[CH:26][C:27]([CH3:28])=[O:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:24]([CH3:25])[CH:26]3[C:27]([CH3:28])=[O:29],water,298.15,22.15722032654065,-40.113749312773386
2238,2483,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C:29]#[N+:30][NH-:31]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[c:10]2[c:11]([nH:31][n:30][c:29]2[C:27]([O:26][CH3:25])=[O:28])[C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1,water,298.15,15.906437499223294,-84.87225723980187
5234,5938,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29](=[O:30])[NH:31][CH3:32]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:29](=[O:30])[NH:31][CH3:32])[O:20][C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,20.378601388857582,-17.489544394928288
791,856,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][O:9][C:10](=[O:11])[C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[C:12]([C:10]([O:9][CH3:8])=[O:11])([CH3:13])[O:14][C:15]1([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,7.831201463910888,-73.39368611192535
2631,2918,[CH3:17][NH:18][C:19](=[O:20])[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)=[N+:28]([CH3:29])[C-:30]([C:31]#[N:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:30]([C:31]#[N:32])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[N:28]([CH3:29])[C:21]2([C:19]([NH:18][CH3:17])=[O:20])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,13.118198160426656,-52.32277811817425
3592,4100,[CH2-:11][N+:12]([CH3:13])=[C:14]([C:15]#[N:16])[C:17]([CH3:18])=[O:19].[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:15]#[N:16])([C:17]([CH3:18])=[O:19])[N:12]([CH3:13])[CH2:11]2,water,298.15,27.18892362395163,-0.012223148467909
5079,5767,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:16]([CH3:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:15][C:14]2([C:12]([CH3:11])=[O:13])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,37.42892488404394,-7.133653574504629
945,1026,[CH3:1][O:2][C:3]#[C:4][C:5]([F:6])([F:7])[F:8].[CH3:9][NH:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:20](=[O:21])[NH:22][CH3:23])[N:14]=[C:15]1[C:16](=[O:17])[O:18][CH3:19],water,298.15,17.094298471736078,-61.4508470428636
2167,2403,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[NH:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24]>>[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:16]([C:17](=[O:18])[NH:19][CH3:20])([C:21](=[O:22])[O:23][CH3:24])[N:15]=[C:14]3[C:12]([NH:11][CH3:10])=[O:13],water,298.15,15.617931931252524,-54.7983197221529
2026,2249,[CH3:18][O:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26]([C:27]#[N:28])[o+:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]1([C:20]([O:19][CH3:18])=[O:21])[O:23][C:24](=[O:25])[C:26]2([C:27]#[N:28])[O:29]1,water,298.15,14.828118611477006,-33.74689102105974
463,505,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][N-:19][C:20]#[N:21].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:19]([C:20]#[N:21])[N:18]=[C:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,17.309073218160304,-52.64498037780312
